US05496872
CROSSLINKING OF THE POLYMER (2) BY CYSTINE DIETHYL ESTER
5 g of polymer (2) and 5.73 g of cystine diethyl ester hydrochloride are dissolved in 100 ml of water. 6 g of N-dimethylaminopropyl-N'-ethylcarbodiimide (EDC) are then dissolved in 5 ml of water and immediately added to the reaction mixture. The reaction is stopped after 3 hours and 200 ml of water are added. The precipitate is recovered by filtration, washed several times with water and then oven-dried under vacuum.

reactant | cystine diethyl ester hydrochloride | 5.73 g | Cl.C(C)OC([C@H](CSSC[C@@H](C(=O)OCC)N)N)=O
reactant | N-dimethylaminopropyl-N'-ethylcarbodiimide | 6 g | CN(C)CCCN=C=NCC | C8H17N3
solvent | water | 100 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | CYSTINE DIETHYL ESTER | C(C)OC([C@H](CSSC[C@@H](C(=O)OCC)N)N)=O | C10H20N2O4S2
